US05521282
A5) Preparation of 2,2,6,6-tetramethyl-4-(2,3-epoxypropoxy)piperidine
64.0 g of sodium hydroxide (1.6 mol) are dissolved in 64 ml of water under argon in a 750 ml sulfonation flask fitted with mechanical stirrer, condenser, thermometer and 100 ml dropping funnel. 170 ml of toluene, 10.3 g (31.8 mmol) of tetrabutylammonium bromide and 50 g (318 mmol) of 4-hydroxy-2,2,6,6-tetramethylpiperidine are added. 8.8 g (636 mmol) of epichlorohyrdin are added dropwise at 45° C. The mixture is then stirred at 50° C. for 4 hours. The reaction mixture is cooled to room temperature and poured into 11 of ice water, and the organic phase is separated off, dried using sodium sulfate and evaporated on a rotary evaporator. The residue is distilled at 8×103 mmHg. Boiling point: 48° C., yield: 28 g (41%). GC: 98 %.

reactant | sodium hydroxide | 1.6 mol, 64.0 g | [OH-].[Na+]
reactant | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 318 mmol, 50 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
solvent | water | 64 ml | O | H2O
catalyst | tetrabutylammonium bromide | 31.8 mmol, 10.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,2,6,6-tetramethyl-4-(2,3-epoxypropoxy)piperidine | CC1(NC(CC(C1)OCC1CO1)(C)C)C | C12H23NO2
